US07943651B2
N-(2-Amino-2-oxoethyl)-3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzamide
N,N-Diisopropylethylamine (0.109 mL, 0.625 mmol) was added to a solution of 3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzoic acid (70 mg, 0.125 mmol) and HATU (47.5 mg, 0.125 mmol) in DMF (2.5 mL) and the solution stirred at room temperature for 5 min. Glycine hydrochloride (34.6 mg, 0.313 mmol) was added and the mixture stirred at room temperature overnight and then partitioned between 2M HCl (50 mL) and ethyl acetate (50 mL). The organic layer was separated, washed with aqueous sodium bicarbonate (50 ml), dried over anhydrous sodium sulphate and evaporated to give crude product which was purified by mass directed autopreparation (System B) to give the title compound (62.5 mg).

reactant | N,N-Diisopropylethylamine | 0.625 mmol, 0.109 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzoic acid | 0.125 mmol, 70 mg | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)O)C=CC1)(C(F)(F)F)O)(C)C)OC | C29H29F4N3O4
reactant | HATU | 0.125 mmol, 47.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Glycine hydrochloride | 0.313 mmol, 34.6 mg | Cl.NCC(=O)O
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | N-(2-Amino-2-oxoethyl)-3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzamide | 62.5 mg | NC(CNC(C1=CC(=CC=C1)N1N=CC2=C(C=C(C=C12)C)NCC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(C(F)(F)F)O)=O)=O | C31H33F4N5O4
